US05569768
N-carbobenzyloxy-L-Lysine methyl ester (1.0 moles, 0.295 g) and 2-[5-[2-(2H-tetrazol-5-yl)phenyl]-1H-benzimidazole-1-yl]octanoic acid (1.0 moles, 0.405 g) were reacted with 1.0 mmoles of hydroxybenzotriazole and dicyclohexylcarbodiimide as in Example 37. The stereoisomers were separated on silica gel eluted with 5% EtOH in chloroform with 1% acetic acid. Each was hydrolyzed with sodium hydroxide as in Example 37 and hydrogenated to remove the carbobenzyloxy group in ethanol over 5% Pd/C for 4 hours. The catalyst was removed by filtering through celite. The solvent was removed in vacuo to yield 74 mg of N-[1-Oxo-2-[5-[2-(2H-tetrazol-5-yl]phenyl]-1H-benzimidazol-1-yl]octyl]-lysine. Isomer A (MS)

reactant | N-carbobenzyloxy-L-Lysine methyl ester | 1.0 moles, 0.295 g | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CCCCN)=O | C15H22N2O4
reactant | 2-[5-[2-(2H-tetrazol-5-yl)phenyl]-1H-benzimidazole-1-yl]octanoic acid | 1.0 moles, 0.405 g | N=1NN=NC1C1=C(C=CC=C1)C1=CC2=C(N(C=N2)C(C(=O)O)CCCCCC)C=C1 | C22H24N6O2
reactant | hydroxybenzotriazole | 1.0 mmoles | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | N-[1-Oxo-2-[5-[2-(2H-tetrazol-5-yl]phenyl]-1H-benzimidazol-1-yl]octyl]-lysine | 74 mg | O=C(C(CCCCCC)N1C=NC2=C1C=CC(=C2)C2=C(C=CC=C2)C=2N=NNN2)N[C@@H](CCCCN)C(=O)O | C28H36N8O3
